US06610723B2
4-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde
A solution of 4,5-diiodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole (8.86 g, 19.68 mmol) in anhydrous THF (110 ml) under argon was cooled to −78° C. and was treated dropwise with n-butyllithium (13.5 ml, 21.65 mmol, 1.6M in hexane). After 10 minutes stirring at −78° C. and 30 minutes at −45° C., the reaction mixture was cooled to −78° C. and treated at once with DMF (10 ml). The mixture was allowed to warm to room temperature and saturated NH4Cl (150 ml) was added. The aqueous layer was extracted 2 times with AcOEt. The combined extracts were dried over Na2SO4, filtered and the solvent was removed in vacuo. The residue was chromatographed (silica, elution with hexane/AcOEt=98:2) to provide the title compound (5.18 g, 75%) as a light yellow oil. MS: m/e 352.1 (M+).

reactant | 4,5-diiodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole | 19.68 mmol, 8.86 g | IC=1N=CN(C1I)COCC[Si](C)(C)C | C9H16I2N2OSi
reactant | n-butyllithium | 21.65 mmol, 1.6M, 13.5 ml | C(CCC)[Li]
reactant | DMF | 10 ml | CN(C)C=O | C3H7NO
reactant | NH4Cl | 150 ml | [NH4+].[Cl-]
solvent | THF | 110 ml | C1CCOC1 | C4H8O
product | 4-Iodo-1-(2-trimethylsilanyl-ethoxymethyl)-1H-imidazole-2-carbaldehyde | 5.18 g, 75% | IC=1N=C(N(C1)COCC[Si](C)(C)C)C=O | C10H17IN2O2Si
